US07932272B2
2,6-Diamino-N-(5-benzyloxy-thiophen-2-ylmethyl)-nicotinamide
To a solution of 2,6-diaminonicotinic acid described in Preparation Example A-15 (109 mg, 0.71 mmol) in dimethylsulfoxide (10 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (272 mg, 1.42 mmol), 1-hydroxybenzotriazole (217 mg, 1.42 mmol) and C-(5-benzyloxy-thiophen-2-yl)methylamine described in Example E-76 (156 mg, 0.71 mmol), and the solution was stirred at room temperature for 14 hours. The reaction solution was poured into brine, extracted with ethyl acetate, the fractionated organic layer was dried over anhydrous magnesium sulfate and then concentrated. The obtained residue was subjected to NH silica gel column chromatography, eluted with solvent (ethyl acetate) and the title compound (157 mg, 0.44 mmol, 62%) was obtained.

reactant | 2,6-diaminonicotinic acid | NC1=C(C(=O)O)C=CC(=N1)N | C6H7N3O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.42 mmol, 272 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.42 mmol, 217 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | C-(5-benzyloxy-thiophen-2-yl)methylamine | C(C1=CC=CC=C1)OC1=CC=C(S1)CN | C12H13NOS
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 2,6-Diamino-N-(5-benzyloxy-thiophen-2-ylmethyl)-nicotinamide | 0.44 mmol, 157 mg, 62% | NC1=C(C(=O)NCC=2SC(=CC2)OCC2=CC=CC=C2)C=CC(=N1)N | C18H18N4O2S
